Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute Renal Failure
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ year old Male with who presents with acute renal failure on 
stage II CKD. Patient has baseline createnine of 1.5 and 
presents with a createnine of 2.5. The patient's PCP is in ___ 
___, while he recieves his oncologic care for his lymphoma 
in remission here with Dr. ___. Dr. ___ 
oncologist called his PCP about the ARF, and his doctor was not 
available. She sent him to the ED for further evaluation. 

The patient's wife notes that they are down in ___ on 
vacation, as they are moving in 2 weeks to ___, and that 
the patient packed his own pill box, and is blind, and she 
suspects he may have taken an extra dose of some medications.

Of note he did have acute renal failure in ___, from his 
cytoxan/RCHOP and tumor lysis.

According to the patient there has been no change in his urinary 
habits recently. He reports chronically increased frequency, 
urgency, but these have been progressing over the past few 
years. He denies hesitancy, weak stream, dysura, incomplete 
bladder emptying, or suprapubic discomfort.
 
In ED, triage VS were: 97.6 56 154/96 16 99% RA. Renal 
ultrasound was unremarkable. patient was sent to the floor for 
further evaluation.
 
Past Medical History:
1. Aplastic Lymphoma in Remission
2. diabetes mellitus type 2 
3. juvenile macular degeneration - legally blind x ___ years  
4. CAD s/p stents ___ years ago at ___ no known MI  
5. Cataracts
6. Polymyalgia Rheumatica
 
Social History:
___
Family History:
Unable to obtain as he was adopted  
 
Physical Exam:
ROS:
GEN: - fevers, - Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia
PULM: - Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence, + Frequency
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache
 
PHYSICAL EXAM:
VSS: 99.6, 132/68, 58, 18, 97%RA
GEN: NAD
Pain: ___
HEENT: Blind, MMM, - OP Lesions
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CCE
NEURO: CAOx3, Non-Focal
 
Pertinent Results:
___ 01:05PM BLOOD WBC-6.8 RBC-3.31* Hgb-10.6* Hct-32.1* 
MCV-97 MCH-32.1* MCHC-33.2 RDW-15.2 Plt ___
___ 09:30AM BLOOD WBC-9.0 RBC-3.45* Hgb-11.0* Hct-33.9* 
MCV-98 MCH-32.0 MCHC-32.6 RDW-14.8 Plt ___
___ 01:05PM BLOOD Neuts-67.6 ___ Monos-5.6 Eos-6.2* 
Baso-0.8
___ 09:30AM BLOOD Neuts-69.3 ___ Monos-6.5 Eos-5.1* 
Baso-0.7
___ 05:30AM BLOOD Glucose-110* UreaN-46* Creat-1.6* Na-138 
K-5.0 Cl-108 HCO3-23 AnGap-12
___ 01:05PM BLOOD Glucose-88 UreaN-57* Creat-2.2* Na-140 
K-5.1 Cl-108 HCO3-22 AnGap-15
___ 09:30AM BLOOD UreaN-57* Creat-2.5* Na-140 K-5.6* Cl-107 
HCO3-21* AnGap-18
___ 09:30AM BLOOD ALT-35 AST-27 LD(LDH)-115 AlkPhos-97 
TotBili-0.3
___ 09:30AM BLOOD Albumin-4.4 Calcium-9.2
___ 09:30AM BLOOD TSH-2.6
___ 09:30AM BLOOD VITAMIN D 25 HYDROXY-PND
___ 03:10PM URINE Color-Straw Appear-Clear Sp ___
___ 03:10PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 03:10PM URINE RBC-0 WBC-0 Bacteri-NONE Yeast-NONE Epi-0
___ 03:10PM URINE Eos-NEGATIVE  
___ 05:00PM URINE Hours-RANDOM Creat-69 Na-101 K-43 Cl-101

___ 3:10 pm URINE     Site: NOT SPECIFIED
      CHM S# ___ UCU ADDED ___. 

   URINE CULTURE (Pending):

RENAL U.S. Study Date of ___ 3:47 ___ 
Preliminary Report !! WET READ !!  
no hydronephrosis, stones or masses. right renal cyst unchanged 
from recent CT 
 
Brief Hospital Course:
1. Acute Renal Failure, Stage II Chronic Kidney Disease
- Possible etiologies are medications: lisinopril and 
allopurinol. We stopped these medications with dramatic 
improvement back to his baseline.
- The unusual time course is somewhat puzzling given that he 
went up extremely quickly and returned equally quickly, 
particularly with little intervention other than holding his 
medications and possible IV hydration in the ED. Given the 
concern of the wife that he may have accidentally taken an extra 
dose of his ACEI. 
- Change dose of allopurinol to renally dosed
- Hold ACEI until his PCP can ___. Given that he will be 
getting a ___ PCP in ___, ___ asked the wife to get a ___ PCP on 
___ out in ___, then we can fax the ___ PCP the discharge 
summary.
- FENa of 2.3% makes ATN most likely etiology, but this should 
not resolve this quickly 

2. Pedal Edema
- This again self resolved, which either is acute fluid overload 
due to hydration in the ED, or some acute diastolic failure that 
was un-noticed
- Note patient is on nifedipine

3. Type 2 Diabetes Controled without complications
- Held oral antiglycemics
- ___ restart, although at borderline createnine for glyburide
- ISS coverage

4. Eosinophilia
- There is no reason for this patient to be esosinophilic, 
although his absolute count is at borderline. I have asked the 
clinical pathology resident to review the slide as several other 
patients are also unexpectedly eosinophilic

5. CAD Native Vessle
- ACE held
- Metoprolol, Lipitor, Nifedipine
- Aspirin

6. Anaplastic Lymphoma
- Seen by Dr. ___ day of admission
- ___ in remission

7. Blindness
- Falls Precautions

Full Code

Patient will be obtaining a ___ PCP on ___ in ___, and we can 
send this to the ___ PCP once the ___ PCP's contact information 
has been obtained
 
Medications on Admission:
ALLOPURINOL - (Prescribed by Other Provider) - 300 mg Tablet - 1 
 
(One) Tablet(s) by mouth once a day  
ATORVASTATIN [LIPITOR] - (Prescribed by Other Provider) - 40 mg  

Tablet - 1 (One) Tablet(s) by mouth once a day  
COLCHICINE - (Prescribed by Other Provider) - 0.6 mg Tablet - 1  

(One) Tablet(s) by mouth once a day as needed  
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - (Prescribed by  
Other Provider) - 1,000 mcg/mL Solution - Sub Q Once per month  
FOLIC ACID - 1 mg Tablet - 2 (One) Tablet(s) by mouth once a day 
 
LISINOPRIL - (Prescribed by Other Provider) - 20 mg Tablet - 1  
(One) Tablet(s) by mouth twice a day  
METOPROLOL SUCCINATE - (Prescribed by Other Provider) - 100 mg  
Tablet Sustained Release 24 hr - 1.5 (One and a half) Tablet(s)  

by mouth Q AM and 1 tablets Q ___  
NIFEDIPINE [NIFEDICAL XL] - (Prescribed by Other Provider) - 30  

mg Tablet Extended Rel 24 hr - 1 (One) Tab(s) by mouth once a 
day  
PIOGLITAZONE [ACTOS] - (Takes daily) - Dosage uncertain  
ASPIRIN [ENTERIC COATED ASPIRIN] - (Prescribed by Other  
Provider) - 81 mg Tablet, Delayed Release (E.C.) - 1 (One)  
Tablet(s) by mouth once a day  
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D] - (OTC) - 1,000 unit  
Tablet - 1 (One) Tablet(s) by mouth once a day  
LANCETS - Misc - Use as needed
 
Discharge Medications:
1. allopurinol ___ mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*90 Tablet(s)* Refills:*2*
2. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. colchicine 0.6 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for gout flare.  
4. Vitamin B-12 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a month.  
5. folic acid 1 mg Tablet Sig: Two (2) Tablet PO once a day.  
6. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: 1.5 Tablet Extended Release 24 hrs PO QAM (once a day (in 
the morning)).  
7. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO QPM (once a day 
(in the evening)).  
8. nifedipine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).  
9. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
10. Vitamin D 1,000 unit Tablet Sig: One (1) Tablet PO once a 
day.  
11. glyburide 5 mg Tablet Sig: One (1) Tablet PO twice a day.  
12. Calcium 500 500 mg calcium (1,250 mg) Tablet Sig: One (1) 
Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Acute Kidney Injury
.
Secondary Diagnosis:
Coronary artery disease.
anaplastic lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___.  It 
was a pleasure taking care of you.  You were admitted for an 
acute worsening of your kidney function.  Your lisinopril, known 
to sometimes cause kidney problems, was held. Your allopurinol, 
also known to sometimes cause kidney problems, was also held. 
Your kidney function improved overnight with fluids and holding 
your medications.  Our laboratory work up did not reveal any 
clear explanation of why your kidney function was worsening and 
it could have been a combination of medication as well as 
dehydration.  We will ask you to stop your lisinopril for now 
until you can see your PCP and also to take your allopurinol 
every other day.  Please also try to drink 2L of fluid daily.
.
The following medications were STOPPED:
lisinopril 20mg by mouth Daily
.
The following medication was CHANGED:
Allopurinol ___ PO Daily
.
Please take your other medication as prescribed.

Please schedule a follow up appointment with your primary care 
physician.
 
Followup Instructions:
___